** sch_path: /foss/designs/ENGN1600-CAD4/1bitblock.sch
.subckt 1bitblock P A B Cin S0 S1 Y Cout
*.PININFO A:I B:I Cin:I S0:I S1:I Y:O Cout:O P:O
x1 B G A AND
x2 B A P XOR
x3 P G OR OR
x4 P Cin ADD XOR
x5 S0 ADD S1 G Y OR P MUX41
x6 P net1 Cin AND
x7 net1 G Cout OR
.ends

* expanding   symbol:  AND.sym # of pins=3
** sym_path: /foss/designs/ENGN1600-CAD4/AND.sym
** sch_path: /foss/designs/ENGN1600-CAD4/AND.sch
.subckt AND IN0 OUT IN1
*.PININFO OUT:O IN0:I IN1:I
M1 net1 IN0 net2 GND nfet_03v3 L=0.28u W=1u nf=1 m=1
M2 net2 IN1 GND GND nfet_03v3 L=0.28u W=1u nf=1 m=1
M3 net1 IN0 vdd vdd pfet_03v3 L=0.28u W=1u nf=1 m=1
M4 net1 IN1 vdd vdd pfet_03v3 L=0.28u W=1u nf=1 m=1
x1 OUT net1 INV
.ends


* expanding   symbol:  XOR.sym # of pins=3
** sym_path: /foss/designs/ENGN1600-CAD4/XOR.sym
** sch_path: /foss/designs/ENGN1600-CAD4/XOR.sch
.subckt XOR IN0 IN1 OUT
*.PININFO OUT:O IN0:I IN1:I
M3 OUT Ab net1 vdd pfet_03v3 L=0.28u W=2u nf=1 m=1
M4 net1 IN0 vdd vdd pfet_03v3 L=0.28u W=2u nf=1 m=1
M1 OUT IN0 net2 GND nfet_03v3 L=0.28u W=1u nf=1 m=1
M2 net2 IN1 GND GND nfet_03v3 L=0.28u W=1u nf=1 m=1
M5 OUT Bb net1 vdd pfet_03v3 L=0.28u W=2u nf=1 m=1
M6 net1 IN1 vdd vdd pfet_03v3 L=0.28u W=2u nf=1 m=1
M7 OUT Ab net3 GND nfet_03v3 L=0.28u W=1u nf=1 m=1
M8 net3 Bb GND GND nfet_03v3 L=0.28u W=1u nf=1 m=1
x2 Ab IN0 INV
x1 Bb IN1 INV
.ends


* expanding   symbol:  OR.sym # of pins=3
** sym_path: /foss/designs/ENGN1600-CAD4/OR.sym
** sch_path: /foss/designs/ENGN1600-CAD4/OR.sch
.subckt OR IN0 IN1 OUT
*.PININFO OUT:O IN0:I IN1:I
M1 net1 IN1 GND GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M2 net1 IN0 GND GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
M3 net1 IN1 net2 vdd pfet_03v3 L=0.28u W=2u nf=1 m=1
M4 net2 IN0 vdd vdd pfet_03v3 L=0.28u W=2u nf=1 m=1
x1 OUT net1 INV
.ends


* expanding   symbol:  MUX41.sym # of pins=7
** sym_path: /foss/designs/ENGN1600-CAD4/MUX41.sym
** sch_path: /foss/designs/ENGN1600-CAD4/MUX41.sch
.subckt MUX41 S0 IN0 S1 IN1 OUT IN2 IN3
*.PININFO IN0:I IN1:I S0:I S1:I IN2:I IN3:I OUT:O
x1 IN0 S0 n1 IN1 MUX21
x2 IN2 S0 n2 IN3 MUX21
x3 n1 S1 OUT n2 MUX21
.ends


* expanding   symbol:  INV.sym # of pins=2
** sym_path: /foss/designs/ENGN1600-CAD4/INV.sym
** sch_path: /foss/designs/ENGN1600-CAD4/INV.sch
.subckt INV OUT IN
*.PININFO IN:I OUT:O
M1 OUT IN VDD VDD pfet_03v3 L=0.28u W=1u nf=1 m=1
M2 OUT IN GND GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
.ends


* expanding   symbol:  MUX21.sym # of pins=4
** sym_path: /foss/designs/ENGN1600-CAD4/MUX21.sym
** sch_path: /foss/designs/ENGN1600-CAD4/MUX21.sch
.subckt MUX21 IN0 S OUT IN1
*.PININFO OUT:O IN0:I IN1:I S:I
M3 net1 IN1 net2 vdd pfet_03v3 L=0.28u W=2u nf=1 m=1
M4 net2 IN0 vdd vdd pfet_03v3 L=0.28u W=2u nf=1 m=1
M1 net1 IN0 net3 GND nfet_03v3 L=0.28u W=1u nf=1 m=1
M2 net3 Sb GND GND nfet_03v3 L=0.28u W=1u nf=1 m=1
M5 net1 S net2 vdd pfet_03v3 L=0.28u W=2u nf=1 m=1
M6 net2 Sb vdd vdd pfet_03v3 L=0.28u W=2u nf=1 m=1
M7 net1 IN1 net4 GND nfet_03v3 L=0.28u W=1u nf=1 m=1
M8 net4 S GND GND nfet_03v3 L=0.28u W=1u nf=1 m=1
x3 Sb S INV
x4 OUT net1 INV
.ends

.GLOBAL GND
.GLOBAL vdd
.GLOBAL VDD
